US05146002
Synthesis of 4-methoxy-1,3-bis(4,4-dimethyl-3-oxopentanoyl)benzene
In a 100 ml three-necked flask equipped with a mechanical stirrer, dropping funnel, reflux condenser, and a nitogen-inlet tube, 1.5 gm (38 mmol) of 60% sodium hydride, 3.6 gm (36 mmol) of pinacolone, 3.0 gm (13.4 mmol) of dimethyl 4-methoxyisophthalate, and 30 ml of anhydrous tetrahydrofuran were mixed with stirring under nitrogen stream and refluxed with heating for 5 hours. After cooling the reaction mixture, 10 ml of 2N aqueous hydrochloric acid was added, and the product was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was removed by evaporation. The crude product was recrystallized using hexane to obtain 3.2 gm of the target compound as colorless crystals (yield: 66%).

reactant | sodium hydride | 38 mmol, 1.5 gm | [H-].[Na+]
reactant | pinacolone | 36 mmol, 3.6 gm | CC(C(C)(C)C)=O | C6H12O
reactant | dimethyl 4-methoxyisophthalate | 13.4 mmol, 3.0 gm | COC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C11H12O5
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-methoxy-1,3-bis(4,4-dimethyl-3-oxopentanoyl)benzene | 3.2 gm, yield: 66% | COC1=C(C=C(C=C1)C(CC(C(C)(C)C)=O)=O)C(CC(C(C)(C)C)=O)=O | C21H28O5
